US04216148
4-Methyl-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine fumarate
A solution of 1.8 g. portion of 9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine in 21 ml. of 97% formic acid is cooled in an ice bath and 2.1 g. of sodium borohydride pellets are added portionwise over a 30 minute period. The mixture is stirred for 2 hours, cooled, water is added, the mixture is made alkaline with ammonium hydroxide and extracted with chloroform. The extract is dried over magnesium sulfate, filtered and evaporated. The residue is dissolved in 15 ml. of warm ethanol, filtered and 0.7 g. of fumaric acid in 10 ml. of ethanol is added giving the desired compound as the fumarate salt, m.p. 206°-208° C. (dec.).

reactant | 9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine | CN1CCN(CC1)C1=NC=2C(NC3=C1C=CC=C3)=CSC2 | C16H18N4S
reactant | formic acid | C(=O)O | CH2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | O | H2O
product | 4-Methyl-9-(4-methyl-1-piperazinyl)-4H-thieno[3,4-b][1,4]benzodiazepine fumarate | C(\C=C\C(=O)O)(=O)O.CN1C=2C(N=C(C3=C1C=CC=C3)N3CCN(CC3)C)=CSC2 | InChI=1S/C17H20N4S.C4H4O4/c1-19-7-9-21(10-8-19)17-13-5-3-4-6-15(13)20(2)16-12-22-11-14(16)18-17;5-3(6)1-2-4(7)8/h3-6,11-12H,7-10H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
